US05717124
The concentrated solution (1.88 g) containing (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoic acid, which was prepared by concentrating the ethyl acetate portion, was obtained in the same manner as Example 1. To the solution, 24 ml of acetone were added to prepare an acetone solution. 3.1 g of methyl iodide and 0.60 g of potassium carbonate were added to the solution with stirring, and then the mixture was further stirred for 5 hours at room temperature. After 24 ml of water was added to the solution, the solution was extracted with two portios of 30 ml of ethyl acetate. The ethyl acetate portions were combined and dried over anhydrous magnesium sulfate. Then, the solvent was removed by distillation in vacuo to give 1.2 g of methyl (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoate as an oil (optical purity: 98% ee; purity: 79%).

reactant | (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoic acid | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)O)CC(CP(=O)(OC)OC)=O | C14H29O7PSi
reactant | acetone | 24 ml | CC(=O)C | C3H6O
reactant | methyl iodide | 3.1 g | CI | CH3I
reactant | potassium carbonate | 0.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 24 ml | O | H2O
product | methyl (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoate | 1.2 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)OC)CC(CP(=O)(OC)OC)=O | C15H31O7PSi
